US05346920
A mixture of 14.99 g of 2-chloro-4-(3-chlorophenoxy)phenol, 4.44 g of chloroacetonitrile and 8.94 g of potassium carbonate in 150 ml of dimethylformamide was stirred at a temperature of 70° to 80° C. in an oil bath for 5 hours. The reaction mixture was cooled to room temperature, poured into water and extracted twice with 100 ml of ethyl acetate. The extracts were combined together, washed twice with 200 ml of water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 14.0 g of [2-chloro-4-(3-chlorophenoxy)phenoxy]acetonitrile as a crude product.

reactant | 2-chloro-4-(3-chlorophenoxy)phenol | 14.99 g | ClC1=C(C=CC(=C1)OC1=CC(=CC=C1)Cl)O | C12H8Cl2O2
reactant | chloroacetonitrile | 4.44 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 8.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | [2-chloro-4-(3-chlorophenoxy)phenoxy]acetonitrile | 14.0 g | ClC1=C(OCC#N)C=CC(=C1)OC1=CC(=CC=C1)Cl | C14H9Cl2NO2
